US08022205B2
4-(2-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (B-24)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 2-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 2-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | COC1=NC=CC=C1B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | boronic acid | B(O)O | BH3O2
product | 4-(2-Methoxy-pyridin-3-yl)-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC1=NC=CC=C1C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C21H22N6O2
